US09029395B2
To a solution of 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoic acid (for a preparation see Intermediate 18) (250 mg, 0.575 mmol) in DMF (10 mL) were successively added 3-(dimethylamino)-1-propanol (71.2 mg, 0.690 mmol), EDC (220 mg, 1.150 mmol) and DMAP (7.0 mg, 0.057 mmol). The resulting mixture was stirred at room temperature overnight, then concentrated in vacuo, dissolved in a 1:1 MeOH/DMSO mixture and purified by MDAP (HpH). The appropriate fractions were combined and concentrated under reduced pressure to give 3-(dimethylamino)propyl 4-((2S,4R)-1-acetyl-4-((4-chlorophenyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate (41 mg, 17%) as a viscous colourless oil. LCMS (Formate, 2 min), Rt=0.94 min, MH+=520.

reactant | 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoic acid | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)O)C=C1)NC1=CC=C(C=C1)Cl)C | C25H23ClN2O3
reactant | 3-(dimethylamino)-1-propanol | 0.690 mmol, 71.2 mg | CN(CCCO)C | C5H13NO
reactant | EDC | 1.150 mmol, 220 mg
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.057 mmol, 7.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(dimethylamino)propyl 4-((2S,4R)-1-acetyl-4-((4-chlorophenyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate | 41 mg, 17% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCCCN(C)C)C=C1)NC1=CC=C(C=C1)Cl)C | C30H34ClN3O3
